US09328219B2
15.2 1-tert-butyl-3-[4-(cyclohexylcarbamoylamino)cyclohexyl]urea
A solution of tert-butylisocyanate (1.17 g, 0.012 mol) in dry N-methyl-2-pyrrolidone (NMP) (50 mL) was added slowly to a solution of trans-1-(4-aminocyclohexyl)-3-cyclohexylurea (2.83 g, 0.012 mol) in dry NMP (100 mL) under inert atmosphere. The resulting mixture was heated to 70° C. and stirred for 24 h. The solution was precipitated in 1 M HCl and filtered off. The resulting white solid was washed with THF, recrystallized from DMF and dried under high vacuum.

reactant | tert-butylisocyanate | 0.012 mol, 1.17 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | trans-1-(4-aminocyclohexyl)-3-cyclohexylurea | 0.012 mol, 2.83 g | N[C@@H]1CC[C@H](CC1)NC(=O)NC1CCCCC1 | C13H25N3O
solvent | N-methyl-2-pyrrolidone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | NMP | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 1-tert-butyl-3-[4-(cyclohexylcarbamoylamino)cyclohexyl]urea | C(C)(C)(C)NC(=O)NC1CCC(CC1)NC(NC1CCCCC1)=O | C18H34N4O2
